US04835175
A suspension of 6.0 g of 7-methoxyindole-2carboxylic acid in 100 ml of toluene is combined with 4.3 ml of thionyl chloride; the mixture is heated under stirring for 3 hours to 90° C., then concentrated under vacuum. The residue is combined with 50 ml of n-butanol and heated for one hour under reflux Then the mixture is evaporated to dryness under vacuum, the oily residue is boiled with 60 ml of petroleum ether, the clear solution is decanted from the dark residue, and cooling of the solution yields 4.1 g of 7-methoxyindole-2-carboxylic acid n-butyl ester, mp 66°-69° C.

reactant | 7-methoxyindole-2carboxylic acid | 6.0 g | COC=1C=CC=C2C=C(NC12)C(=O)O | C10H9NO3
reactant | thionyl chloride | 4.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 7-methoxyindole-2-carboxylic acid n-butyl ester | 4.1 g | C(CCC)OC(=O)C=1NC2=C(C=CC=C2C1)OC | C14H17NO3
